US08471005B2
N-{3-[7-(1H-Pyrrol-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-acetamide
Following the synthetic and purification procedures described in Example 1291c, 2-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-pyrrole-1-carboxylic acid tert-butyl ester (80 mg, 0.2 mmol) was coupled with 3′-aminoacetanilide (77.0 mg, 0.513 mmol). Yield of TFA salt: 6 mg (7%); LC/MS: 333 (M+H); HPLC: 97% pure, RT=2.32 min; 1H NMR (DMSO, δ): 11.35 (s, 1H), 9.90 (s, 1H), 9.34 (s, 1H), 8.85 (s, 1H), 7.89 (s, 1H), 7.51 (d, J=8.5, 1H), 7.25 (t, J=8.2, 1H), 7.17 (s, 1H), 7.14 (d, J=4.7, 1H), 7.07 (s, 1H), 6.96 (m, 1H), 6.92 (d, J=4.7, 1H), 6.22 (m, 1H), 2.05 (s, 3H).

reactant | 2-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-pyrrole-1-carboxylic acid tert-butyl ester | 0.2 mmol, 80 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=CC=C2C=NC(=NN21)S(=O)C | C16H18N4O3S
reactant | 3′-aminoacetanilide | 0.513 mmol, 77.0 mg | NC=1C=C(NC(C)=O)C=CC1 | C8H10N2O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-{3-[7-(1H-Pyrrol-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-acetamide | N1C(=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)NC(C)=O | C18H16N6O
